US06579993B2
3-Chloromethyl-4-(4-fluoro-benzoyl)-benzonitrile
A solution of 4-fluoro phenylmagnesium bromide (3.76 g) in tetrahydrofuran (15ml) was added to a cooled solution of 2-chloromethyl-4-cyano-benzoyl chloride (3.95 g) in tetrahydrofuran (10 ml) so that the temperature did not raise above 0° C. The mixture was warmed slowly to room temperature and stirred over night. Saturated ammonium chloride solution (60 ml) was added and stirring continued for 0.5 hours. The phases were separated and the aqueous phase was extracted with diethylether (30 ml). The combined organic phases were dried over sodium sulfate, filtered and dried in vacuo to give a brown solid. Flash chromatography (ethyl acetate/n-hexane=1/10) provided the product as colourless solid. Yield 2.95 g, 58%. 1H NMR (CDCl3, 400 MHz): 4.71 (2H, s), 7.16-7.21 (2H, m), 7.46 (1H, d, J=7.9 Hz), 7.71 (1H, dd, J=1.5, 7.9 Hz), 7.81-7.86 (2H, m), 7.89 (1H, d, J=1.5 Hz). 13C NMR (CDCl3, 100 MHz): 42.3, 115.0, 116.4, 116.6, 117.9, 129.6, 132.95, 132.98, 133.4, 133.5, 134.3, 138.7, 142.4, 165.5, 168.1, 194.5.

reactant | 4-fluoro phenylmagnesium bromide | 3.76 g | FC1=CC=C(C=C1)[Mg]Br
reactant | 2-chloromethyl-4-cyano-benzoyl chloride | 3.95 g | ClCC1=C(C(=O)Cl)C=CC(=C1)C#N | C9H5Cl2NO
reactant | ammonium chloride | 60 ml | [Cl-].[NH4+]
reactant | ethyl acetate n-hexane | C(C)(=O)OCC.CCCCCC
solvent | tetrahydrofuran | 15ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3-Chloromethyl-4-(4-fluoro-benzoyl)-benzonitrile | ClCC=1C=C(C#N)C=CC1C(C1=CC=C(C=C1)F)=O | C15H9ClFNO
